US07524871B2
Step 4: Synthesis of (±)-2-[6-methyl-2-oxo-3-({[4-(trifluoromethyl)benzyl]sulfonyl}amino)-1(2H)pyridinyl]-N-(4,5,6,7-tetrahydro-2H-indazol-5 -ylmethyl)acetamide
The title compound was prepared from 2-[6-methyl-2-oxo-3-({[4 (trifluoromethyl)benzyl]sulfonyl}amino)-1(2H)-pyridinyl]acetic acid and 4,5,6,7-tetrahydro-2H-indazol-5-y-lmethanamine dihydrochloride using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a white solid compound.

reactant | 2-[6-methyl-2-oxo-3-({[4 (trifluoromethyl)benzyl]sulfonyl}amino)-1(2H)-pyridinyl]acetic acid | CC1=CC=C(C(N1CC(=O)O)=O)NS(=O)(=O)CC1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O5S
reactant | 4,5,6,7-tetrahydro-2H-indazol-5-y-lmethanamine dihydrochloride | Cl.Cl.N=1NC=C2CC(CCC12)CN
product | (±)-2-[6-methyl-2-oxo-3-({[4-(trifluoromethyl)benzyl]sulfonyl}amino)-1(2H)pyridinyl]-N-(4,5,6,7-tetrahydro-2H-indazol-5 -ylmethyl)acetamide | CC1=CC=C(C(N1CC(=O)NCC1CC2=CNN=C2CC1)=O)NS(=O)(=O)CC1=CC=C(C=C1)C(F)(F)F | C24H26F3N5O4S
